US07022707B2
S-4-(tert-butyl-dimethylsilyloxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate:
to a stirred solution of 4-(tert-butyldimethylsilyloxy)-benzenemethanethiol (10.5 g, 41 mmol) and triethylamine (69 mmol, 9.6 mL) in THF (500 mL) at 0° C. was added 4-tert-butoxycarbonyl-1-chlorocarbonylpiperazine (8.56 g, 34 mmol) and DMAP (6.9 mmol, 0.84 g). The reaction mixture was warmed to 50° C. and stirred for 3 h then poured into water (500 mL) and extracted with EtOAc (2×250 mL). The combined organic extracts were washed with water (250 mL) then brine (500 mL), then dried (MgSO4) and concentrated to reveal a brown oil. Chromatography [SiO2: 90/10, hexane/EtOAc)] gave the product as a yellow oil which crystallised on standing (13.4 g, 85%): m.p. 53–54° C. 1H-NMR (400 MHz, CDCl3): 0.18 (6H, s), 0.96 (9H, s), 1.46 (9H, s), 3.42–3.51 (8H, m), 4.12 (2H, s), 6.75 (2H, d, J=8.5 Hz) and 7.18 (2H, d, J=8.5 Hz).

reactant | 4-(tert-butyldimethylsilyloxy)-benzenemethanethiol | 41 mmol, 10.5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CS | C13H22OSSi
reactant | triethylamine | 69 mmol, 9.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butoxycarbonyl-1-chlorocarbonylpiperazine | 34 mmol, 8.56 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
reactant | water | 500 mL | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 6.9 mmol, 0.84 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | S-4-(tert-butyl-dimethylsilyloxy)benzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C(SCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C23H38N2O4SSi
